US08461157B2
Sodium (356 mg, 15.5 mmol) was carefully added to ethanol (5.9 mL) to prepare sodium ethoxide solution in ethanol. The above freshly prepared ethanol solution (3.5 mL) was added to a stirred suspension of propionimidamide hydrochloride (1.05 g, 9.69 mmol). The mixture was warmed to 55° C., then the heating bath was removed and a solution of mucobromic acid (1 g, 3.87 mmol) in ethanol was added dropwise at a rate which maintained a constant temperature, followed by a further sodium ethoxide solution (2 mL). After cooling, the mixture was filtered and evaporated to a residue which was shaken vigorously with hydrochloric acid (2 M×2.4 mL). The brown precipitate was filtered off and washed with cold water, then freeze-dried to give 5-Bromo-2-ethylpyrimidine-4-carboxylic acid (330 mg, 37%) as a yellow solid. LCMS: 231 [M+1]+, 1H NMR (400 MHz, DMSO-d6): δ 1.25 (t, J=7.6 Hz, 3H), 2.88 (q, J=7.6 Hz, 2H), 9.05 (s, 1H).

reactant | Sodium | 15.5 mmol, 356 mg | [Na] | Na
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | propionimidamide hydrochloride | 9.69 mmol, 1.05 g | Cl.C(CC)(N)=N
reactant | mucobromic acid | 3.87 mmol, 1 g | C(/C(/Br)=C(/Br)\C=O)(=O)O | C4H2Br2O3
reactant | sodium ethoxide | 2 mL | [O-]CC.[Na+]
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 3.5 mL | C(C)O | C2H6O
solvent | ethanol | 5.9 mL | C(C)O | C2H6O
product | 5-Bromo-2-ethylpyrimidine-4-carboxylic acid | 330 mg, 37% | BrC=1C(=NC(=NC1)CC)C(=O)O | C7H7BrN2O2
